US07132572B2
To a solution of 2-bromofluorene (2.5 g, 10 mmol) in toluene (40 ml) was added tetrabutylammonium bromide (0.8 g, 2.48 mmol) as a phase transfer catalyst. A freshly prepared solution of aqueous sodium hydroxide (25 ml, 50% w/w) was added at once to the solution. The mixture turned orange and became viscous. To this solution, iodoethane (2.4 ml, 30 mmol) was added. The mixture was stirred at 60° C. for a period of 8 h. It was diluted with ethyl acetate (25 ml) and washed several portions of water. Organic layer was dried over magnesium sulfate and concentrated in vacuuo to afford the crude product liquid. The products were purified by column chromatography (silica gel, hexane as eluent, Rf=0.8 on thin layer chromatography) giving colorless oil of 2-bromo-9,9-diethylfluorene (2.5 g) in a yield of 82%.

reactant | 2-bromofluorene | 10 mmol, 2.5 g | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | iodoethane | 30 mmol, 2.4 ml | ICC | C2H5I
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 2.48 mmol, 0.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-9,9-diethylfluorene | 2.5 g, yield of 82% | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CC)CC | C17H17Br
